### PR TITLE
chore(SimpleGraph/Coloring/Constructions): some golfs

### PR DESCRIPTION
**Pull request by SnirBroshi**
Also remove the `2 ≤ n` hypothesis from `cycleGraph.tricoloring`, and spell `two_colorable_iff_forall_loop_even` using `IsBipartite`.

---

- `cycleGraph.tricoloring`: 165ms to 110ms
- `chromaticNumber_cycleGraph_of_odd`: 25ms to 55ms
- `two_colorable_iff_forall_loop_even`: 50ms to 40ms
- `IsTree.coloringTwoOfVert`: 45ms to 75ms
- `IsAcyclic.coloringTwoOfVerts`: 50ms to 50ms

The issues in `tricoloring` kinda remind me of #41338; maybe there's a good lemma that'll help them both, not sure.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean [hunk 1]
```diff
@@ -108,48 +108,30 @@ theorem chromaticNumber_cycleGraph_of_even (n : ℕ) (h : 2 ≤ n) (hEven : Even
...
-      rw [← h2] at hOdd
-      exact (Nat.not_odd_iff.mpr rfl) hOdd
-    let w : (cycleGraph (n - 3 + 3)).Walk 0 0 := cycleGraph.cycle (n - 3)
-    have hOdd' : Odd w.length := by
-      rw [cycleGraph.length_cycle, hn3]
-      exact hOdd
-    rw [← hn3]
-    exact Walk.three_le_chromaticNumber_of_odd_loop w hOdd'
+  apply cycleGraph.tricoloring n |>.colorable.chromaticNumber_le.antisymm
+  have hn3 : n - 3 + 3 = n := by grind
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean:131]: optional: `lia`?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean [hunk 2]
```diff
@@ -108,48 +108,30 @@ theorem chromaticNumber_cycleGraph_of_even (n : ℕ) (h : 2 ≤ n) (hEven : Even
...
-        | inl huv | inr huv =>
-          rw [← add_eq_of_eq_sub' huv.symm]
-          simp only [Fin.val_add_eq_of_add_lt hv', Fin.val_add_eq_of_add_lt hu', Fin.val_one]
-          rw [show ∀ x y : ℕ, x % 2 = y % 2 ↔ (Even x ↔ Even y) by simp [Nat.even_iff]; lia,
-            Nat.even_add]
-          simp only [Nat.not_even_one, iff_false, not_iff_self, iff_not_self]
-          exact id
+        rcases hadj with huv | huv
+        all_goals simp [← add_eq_of_eq_sub' huv.symm, h2, ← Nat.even_iff, Nat.even_add,
+          Fin.val_add_eq_of_add_lt hv', Fin.val_add_eq_of_add_lt hu', -Nat.not_even_iff_odd]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean:126]: is it any easier with `parity_simps` in the list instead of explicitly including and excluding parity lemmas?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean [hunk 3]
```diff
@@ -108,48 +108,30 @@ theorem chromaticNumber_cycleGraph_of_even (n : ℕ) (h : 2 ≤ n) (hEven : Even
...
     | n + 2 =>
-      simp only [cycleGraph_adj] at hadj
       split_ifs with hu hv
       · simp [Fin.eq_mk_iff_val_eq.mpr hu, Fin.eq_mk_iff_val_eq.mpr hv] at hadj
-      · refine (Fin.ne_of_lt (Fin.mk_lt_of_lt_val (?_))).symm
-        exact v.val.mod_lt Nat.zero_lt_two
-      · refine (Fin.ne_of_lt (Fin.mk_lt_of_lt_val ?_))
-        exact u.val.mod_lt Nat.zero_lt_two
-      · simp only [ne_eq, Fin.ext_iff]
+      · exact .symm <| Fin.ne_of_lt <| Fin.mk_lt_of_lt_val (v.val.mod_lt Nat.zero_lt_two :)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean:119]: does Fin.ne_of_gt work instead of .symm <| Fin.ne_of_lt?

**Comment by b-mehta** [comment]
This looks reasonable overall, but I have a few minor questions

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean:125]: Do you mean
```suggestion
        all_goals simp [← add_eq_of_eq_sub' huv.symm, h2, parity_simps,
          Fin.val_add_eq_of_add_lt hv', Fin.val_add_eq_of_add_lt hu']
```
?
It doesn't work, it leaves these goals:
```
⊢ ¬((↑v + 1) % 2 = 0 ↔ ↑v % 2 = 0)
⊢ ¬(↑u % 2 = 0 ↔ (↑u + 1) % 2 = 0)
```
It does work if we only swap `Nat.even_add` for `parity_simps` (which is tagged with it), and leave everything else the same.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean]: Tagged `Nat.odd_iff` with `@[lia]` to make it work 👍
